US07915424B2
(E)-5-Stvrylnicotinonitrile
Add tris(dibenzylideneacetone)dipalladium (125 mg, 0.136 mmol) and tri-o-tolylphosphine (86 mg, 0.273 mmol) to a solution of triethylamine (0.77 mL, 5.46 mmol), 5-bromonicotinonitrile (500 mg, 2.73 mmol) and styrene (0.48 mL, 4.1 mmol) in anhydrous N,N-dimethylformamide (10 mL) under an inert atmosphere, and stir at 100° C. for 3.5 h. Cool to room temperature, add water and extract three times with diethyl ether. Combine the organic layers, dry (sodium sulfate), filter, and concentrate. Purify the residue by silica gel chromatography, eluting with dichloromethane, to give the title compound as a white solid (190 mg, 34%).

reactant | tri-o-tolylphosphine | 0.273 mmol, 86 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 5.46 mmol, 0.77 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromonicotinonitrile | 2.73 mmol, 500 mg | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | styrene | 4.1 mmol, 0.48 mL | C=CC1=CC=CC=C1 | C8H8
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.136 mmol, 125 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | (E)-5-Stvrylnicotinonitrile | 190 mg, 34% | C(=C\C1=CC=CC=C1)/C=1C=NC=C(C#N)C1 | C14H10N2
